US07723333B2
3-{2-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl}benzonitrile
4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (150 mg, 0.525 mmol) was dissolved in dry DMF (1 mL) under nitrogen atmosphere. 3-(2-Aminoethyl)benzonitrile (78 mg, 0.530 mmol) was added followed by TEA (53 mg, 0.525 mmol) and the reaction mixture was heated in a microwave reactor for at 120° C. for 20 mins. The mixture was diluted with EtOAc, washed with saturated aqueous NaHCO3-solution, dried over Na2SO4, filtered and evaporated. The crude product was purified on a Biotage Horizon HPFC system using Heptane and EtOAc as eluant affording the title compound (118 mg, 56.3%). 1H NMR (500 MHz, CDCl3): δ 1.59 (d, 6H), 2.60 (t, 2H), 3.17 (q, 2H), 4.37-4.46 (m, 1H), 5.49 (bs, 1H), 6.88 (s, 1H), 7.02 (d, 1H), 7.30-7.34 (m, 1H), 7.47-7.57 (m, 6H); 13C NMR (125 MHz, CDCl3): δ 20.38, 35.75, 44.70, 47.90, 107.72, 113.00, 118.70, 125.17, 129.19, 129.67, 130.36, 130.77, 131.95, 132.20, 133.23, 135.11, 139.03, 158.60; Mass Spectrum: M+H+ 396.1.

reactant | 4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.525 mmol, 150 mg | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 3-(2-Aminoethyl)benzonitrile | 0.530 mmol, 78 mg | NCCC=1C=C(C#N)C=CC1 | C9H10N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{2-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl}benzonitrile | 118 mg, 56.3% | C(C)(C)N1S(C(=C(C1=O)NCCC=1C=C(C#N)C=CC1)C1=CC=CC=C1)(=O)=O | C21H21N3O3S
